US08067448B2
4-((1R,2R)-1-(5-(4-Cyanophenyl)-1,3,4-oxadiazol-2-yl)-2-hydroxypropylamino)-1-naphthonitrile
To a solution of 4-cyano-N′-((2R,3R)-2-(4-cyanonaphthalen-1-ylamino)-3-hydroxybutanoyl)benzohydrazide (900 mg, 2.18 mmol) in anhydrous THF (90 mL) at room temperature was added 2-tert-butylamino-2-diethylamino-1,3-dimethyl perhydro-1,3,2-diazaphosphorine on polystyrene (2.2 mmol base/g) (2.97 g, 6.53 mmol) followed by p-TSCl (498 mg, 2.60 mmol) and the mixture was stirred for 75 minutes. The mixture was filtered and the residue washed with acetone (3×100 mL) followed by MeOH (3×150 mL). The filtrate was concentrated under reduced pressure to provide an off white solid, which was purified by flash chromatography over silica gel (30-50% EtOAc in hexanes) to provided the title compound as a brown oil (25 mg, 3%): 1H NMR (400 MHz, CDCl3, δ in ppm) 8.19 (d, J=8.4 Hz, 2H), 8.18 (d, J=8.4 Hz, 1H), 7.92 (d, J=8.4 Hz, 1H), 7.84 (d, J=8.6 Hz, 2H), 7.77 (d, J=8.2 Hz, 1H), 7.68 (t, J=7.4 Hz, 1H), 7.59 (t, J=7.2 Hz, 1H), 6.67 (d, J=8.2 Hz, 1H), 5.69 (d, J=9.6 Hz, 1H), 5.47 (d, J=3.7 Hz, 1H), 4.71 (dqd, J=3.7, 6.5, 9.9 Hz, 1H), 1.65 (d, J=6.4 Hz, 3H).

reactant | 4-cyano-N′-((2R,3R)-2-(4-cyanonaphthalen-1-ylamino)-3-hydroxybutanoyl)benzohydrazide | 2.18 mmol, 900 mg | C(#N)C1=CC=C(C(=O)NNC([C@@H]([C@@H](C)O)NC2=CC=C(C3=CC=CC=C23)C#N)=O)C=C1 | C23H19N5O3
reactant | 2-tert-butylamino-2-diethylamino-1,3-dimethyl perhydro-1,3,2-diazaphosphorine | C(C)(C)(C)NP1(N(CCCN1C)C)N(CC)CC | C13H33N4P
solvent | THF | 90 mL | C1CCOC1 | C4H8O
product | 4-((1R,2R)-1-(5-(4-Cyanophenyl)-1,3,4-oxadiazol-2-yl)-2-hydroxypropylamino)-1-naphthonitrile | 25 mg, 3% | C(#N)C1=CC=C(C=C1)C1=NN=C(O1)[C@@H]([C@@H](C)O)NC1=CC=C(C2=CC=CC=C12)C#N | C23H17N5O2
